US04178253
A mixture of 17.7 parts of 3-mercapto-5-phenyl-1,2,4-triazole, 12.9 parts of di-n-butylamine and 50 parts by volume of ethyl alcohol was heated at reflux temperature for one and a half hours. On cooling to 23° C., the product precipitated and this was filtered, washed with ethyl alcohol and dried, yielding 61 percent of N,N-di-n-butylammonium 5-phenyl-1,2,4-triazole-3-thiolate which had a melting point of 133°-137° C. and the following elemental analysis:

reactant | 3-mercapto-5-phenyl-1,2,4-triazole | SC1=NNC(=N1)C1=CC=CC=C1 | C8H7N3S
reactant | di-n-butylamine | C(CCC)NCCCC | C8H19N
solvent | ethyl alcohol | C(C)O | C2H6O
product | N,N-di-n-butylammonium 5-phenyl-1,2,4-triazole-3-thiolate | 61 percent | C1(=CC=CC=C1)C1=NC(=NN1)[S-].C(CCC)[NH2+]CCCC | InChI=1S/C8H7N3S.C8H19N/c12-8-9-7(10-11-8)6-4-2-1-3-5-6;1-3-5-7-9-8-6-4-2/h1-5H,(H2,9,10,11,12);9H,3-8H2,1-2H3
